* D:\Engineering\2022\Semester 2\E Design 344\Project\Assignment 2\LTSpice - Template2\E344_Ass2_US2A.asc
V2 N001 0 5
RSense5V N001 5V 1µ
V12 ultrasonic_out P001 PULSE(0 5 0 0 0 6000u 60m 33)
V5 P001 P002 PULSE(0 5 2 0 0 300u 60m 33)
V6 P002 P003 PULSE(0 5 4 0 0 6000u 60m 33)
V3 P003 0 PULSE(0 5 6 0 0 3000u 60m 33)
R10 range_analog 0 100Meg
V1 N003 0 3.3
RSense3V N003 3V3 1µ
XU1 N005 N002 5V 0 N006 LTC6078
R6 N006 N002 175k
R5 0 N002 22k
XU2 N008 N005 5V 0 N005 LTC6078
R1 N007 ultrasonic_out 80k
R2 N004 N007 120k
R3 N008 N004 375k
C1 N007 0 1µ
C2 N008 0 100n
C3 N005 N004 470n
R7 range_analog N006 34k
R8 0 range_analog 66k
.tran 0 {transtop} 0
.include A2cfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify the input files (.txt and .csv) \n               while developing.\nFor submission: \n  * Only one label name per net name\n  * Use only the provided 5V for power
* Config file:
* Analysis setup:
* =============================\nREPLACE WITH YOUR DETAILS\nE. Stewdent.,  00024601\n=============================
* =============================\nIncludes (don't fiddle with this!!)\n=============================
* ===============================================\nYour circuit goes here - conntect inputs, outputs and supply.\n===============================================
* PLEASE WAIT FOR YOUR SIMULATION TO FINISH BEFORE SUBMITTING.
* Signal from ultrasonic sensor (input to your circuit)
* 5V supply to your circuit
* Analogue range signal (output from your circuit)
.lib LTC5.lib
.backanno
.end
