* D:\Engineering\2022\Semester 2\E Design 344\Project\Assignment 4\LTSpice4a\E344_23575786_A4a.asc
V2 N001 0 5
RSense5V N001 5V 1µ
V1 N003 0 6.5
RSenseVbatt N003 Vbatt 1µ
V3 speed_cmd_buf 0 PWL(0 3 20m 3 40m 0.5 60m 0.5 80m 0.5 90m 3)
V4 us_range_ana 0 PWL(0 3 50m 3 70m 0.5)
R1 motor_control 0 100k
R6 N002 speed_cmd_buf R = Rbase1
R7 N004 us_range_ana R= Rbase1
R8 0 N004 R=Rbase1*gain
R9 N002 motor_control R=Rbase1*gain
XU2 N004 N002 Vbatt 0 motor_control TLC2272 TLC2272
* Don't change these -- used for auto-assessments.\nYou may modify the input files (.txt and .csv) \n               while developing.\nFor submission: \n  * Only one label name per net name
* =============================\nREPLACE WITH YOUR DETAILS\nE. Stewdent.,  00024601\n=============================
* =============================\nIncludes (don't fiddle with this!!)\n=============================
* =======================================\nYour circuit goes here, these are just placeholders.\n=======================================
* PLEASE WAIT FOR YOUR SIMULATION TO FINISH BEFORE SUBMITTING.
.tran 0 {transtop} 0
.include A4cfg.txt
* Speed command\n(input to your circuit)
* Ultrasonic range\nsensor filtered output\n(Input to yuor circuit)
* Motor command\n(Output from your circuit)
* Battery voltage \n(supply to your circuit)
* 5V voltage \n(supply to your circuit)
.param Rbase1 = 50k
.param gain = 6.5/2.5
.inc TLC2272.lib
.backanno
.end
